US07314886B2
31.A. Synthesis of (8-Ethyl-1-isopropyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid ethyl ester
Following the procedure of example 22.A. except using 2-(7-ethyl-1H-indol-3-yl)-ethanol as the 3-indolethanol component and ethyl iso-butyrylacetate as ketone component afforded the title compound as a solid. 1H NMR (500 MHz, CDCl3) δ 9.12 (br, 1H), 7.36 (d, 1H), 7.07 (m, 2H), 4.13 (m, 3H), 3.81 (m, 1H), 3.04 (q, 2H), 2.87 (m, 3H), 2.66 (m, 1H), 2.56 (m, 1H), 1.37 (t, 3H), 1.25 (t, 3H), 1.05 (d, 3H), 0.69 (d, 3H).

reactant | 2-(7-ethyl-1H-indol-3-yl)-ethanol | C(C)C=1C=CC=C2C(=CNC12)CCO | C12H15NO
reactant | 3-indolethanol | N1C=C(C2=CC=CC=C12)CCO | C10H11NO
reactant | ethyl iso-butyrylacetate | C(C(C)C)(=O)CC(=O)OCC | C8H14O3
product | (8-Ethyl-1-isopropyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid ethyl ester | C(C)OC(CC1(OCCC2=C1NC1=C(C=CC=C21)CC)C(C)C)=O | C20H27NO3
